### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): quasi-isomorphisms are stable under retracts and have the 2/3 property

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/QuasiIso.lean [hunk 1]
```diff
@@ -51,6 +53,15 @@ lemma quasiIsoAt_iff' (f : K ⟶ L) (i j k : ι) (hi : c.prev j = i) (hk : c.nex
   exact ShortComplex.quasiIso_iff_of_arrow_mk_iso _ _
     (Arrow.isoOfNatIso (natIsoSc' C c i j k hi hk) (Arrow.mk f))
 
+lemma quasiIsoAt_of_retract {f : K ⟶ L} {f' : K' ⟶ L'}
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/QuasiIso.lean:56]: Would `RetractArrow.quasiIsoAt` make sense? To enable dot notation?

File: Mathlib/Algebra/Homology/QuasiIso.lean [hunk 2]
```diff
@@ -219,6 +230,12 @@ lemma quasiIso_of_arrow_mk_iso (φ : K ⟶ L) (φ' : K' ⟶ L') (e : Arrow.mk φ
     [hφ : QuasiIso φ] : QuasiIso φ' := by
   simpa only [← quasiIso_iff_of_arrow_mk_iso φ φ' e]
 
+lemma quasiIso_of_retractArrow {f : K ⟶ L} {f' : K' ⟶ L'}
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/QuasiIso.lean:233]: Idem?

File: Mathlib/Algebra/Homology/ShortComplex/Retract.lean [hunk 3]
```diff
@@ -0,0 +1,39 @@
...
+open Limits
+
+namespace ShortComplex
+
+variable {C : Type*} [Category C] [HasZeroMorphisms C]
+  {S₁ T₁ S₂ T₂ : ShortComplex C}
+  [S₁.HasHomology] [T₁.HasHomology] [S₂.HasHomology] [T₂.HasHomology]
+  {f₁ : S₁ ⟶ T₁} {f₂ : S₂ ⟶ T₂}
+
+lemma quasiIso_of_retract (h : RetractArrow f₁ f₂) [hf₂ : QuasiIso f₂] :
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/ShortComplex/Retract.lean:26]: Idem

File: Mathlib/Algebra/Homology/QuasiIso.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/QuasiIso.lean:56]: I had considered this option, but I am not sure this is the best option, because there are actually three variants of `RetractArrow.quasiIso(At)` lemmas: one for short complexes, one for homological complexes in a given degree (`quasiIsoAt`), and one for homological complexes in all degrees at the same time. The name `RetractArrow.quasiIsoAt` would not be ambiguous, but it would not be clear whether `RetractArrow.quasiIso` is for short complexes or homological complexes. This is the reason why I would rather see these lemmas in their respective `ShortComplex` and `HomologicalComplex` namespaces.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
